US06140100
A 300 mL Parr bomb was charged with 5.13 g of tert-butyl N-((benzyloxy)carbonyl)-4-O-((benzyloxy)carbonyl)-3-iodo-L-tyrosinate, 120 mL of toluene, 30 mL of cyclopentene and 0.49 g of tri-ortho-tolylphosphine. The solution was deoxygenated by bubbling nitrogen through for 10 min and was treated with 0.182 g of Pd(OAc)2 and 1.24 mL of Et3N. The bomb was flushed with nitrogen, sealed, and heated to 110° C. for 48 h. The vessel was cooled to RT, purged with nitrogen and opened. The reaction mixture was filtered to remove solids and the filtrate was concentrated in vacuo to dryness. The residue was dissolved in 200 mL of EtOAc and the solution was washed with water(4×100 mL), dried over anhydrous NaSO4 and concentrated to give a thick brown oil. Analysis by tlc (SiO2, 8:2 hexane:EtOAc) indicated two major components at Rf =0.50 and 0.40. The crude mixture was subjected to flash chromatography on silica gel (8:2 hexane:EtOAc). This afforded 2.0 g (43%) of the Rf =0.50 material identified as the bis(benzyloxycarbonyl) olefin mixture by 1H-NMR. In addition, 0.90 g (25%) of the Rf =0.40 material was obtained and was identified as the N-benzyloxycarbonyl olefin mixture resulting from loss of the O-benzyloxycarbonly group. The bis(benzyloxycarbonyl) olefin mixture (2.00 g) ws subjected to catalytic hydrogenation (45 psi) in the presence of 0.35 g of 10% Pd(C) in 70 mL of MeOH for 18 h. The crude product was purified by flash chromatography (SiO2, EtOAc) to give 0.99 g (93%) of tert-butyl 3-cyclopentyl-L-tyrosinate as a transparent glass. The N-Benzyloxycarbonyl olefin mixture (0.90 g) was similarly hydrogenated and purified to afford 0.52 g (83%) of tert-butyl 3-cyclopentyl-L-tyrosinate.

reactant | tert-butyl N-((benzyloxy)carbonyl)-4-O-((benzyloxy)carbonyl)-3-iodo-L-tyrosinate | 5.13 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC(=C(C=C1)OC(=O)OCC1=CC=CC=C1)I)C(=O)OC(C)(C)C | C29H30INO7
reactant | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
reactant | cyclopentene | 30 mL | C1=CCCC1 | C5H8
reactant | tri-ortho-tolylphosphine | 0.49 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | MeOH | 70 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | tert-butyl 3-cyclopentyl-L-tyrosinate | 0.99 g, 93% | C1(CCCC1)C=1C=C(C[C@H](N)C(=O)OC(C)(C)C)C=CC1O | C18H27NO3
